.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=25e-6 L=1e-6
M2 outfirststage in2 net_1 net_1 pmos W=25e-6 L=1e-6
M3 net_0 net_2 source_pmos source_pmos pmos W=1e-6 L=1e-6
M4 net_2 net_2 source_pmos source_pmos pmos W=1e-6 L=1e-6
M5 outfirststage net_0 net_2 net_2 pmos W=1e-6 L=1e-6
M6 net_3 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=1e-6
M7 net_0 ibias net_3 net_3 nmos W=1e-6 L=1e-6
M8 net_6 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=1e-6
M9 outfirststage ibias net_6 net_6 nmos W=1e-6 L=1e-6
M10 net_7 net_7 source_pmos source_pmos pmos W=1e-6 L=2e-6
M11 net_1 net_8 net_7 net_7 pmos W=1e-6 L=2e-6
M12 out bias_p_3 source_pmos source_pmos pmos W=1e-6 L=2e-6
M13 out outfirststage source_nmos source_nmos nmos W=2e-6 L=1e-6
M14 bias_n_1b bias_n_1b source_nmos source_nmos nmos W=1e-6 L=1e-6
M15 ibias ibias bias_n_1b bias_n_1b nmos W=1e-6 L=1e-6
M16 net_8 net_8 bias_p_2m bias_p_2m pmos W=1e-6 L=2e-6
M17 bias_p_2m net_7 source_pmos source_pmos pmos W=1e-6 L=2e-6
M18 bias_p_3 bias_p_3 source_pmos source_pmos pmos W=1e-6 L=2e-6
M19 bias_p_3 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=1e-6
M20 net_8 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=1e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
